US05525602
2.0 g of methyl (E)-6-(1,3-dihydro-6-ethyl-4-isocyanato-7-methyl-3-oxoisobenzofuran-5-yl)-4-methyl-4-hexenoate is dissolved in 50 ml of 1,4-dioxane and treated with 16 ml of water and 2.0 g of lithium hydroxide monohydrate. The mixture is stirred at room temperature for 2 hours and then partitioned between aqueous 1N sodium hydrogen sulfate and ethyl acetate. The organic phase is washed twice with water, once with brine, and dried over magnesium sulfate. The solvent is evaporated under reduced pressure and the residue purified by chromatography on silica gel, to give (E)-6-(4-amino-1,3-dihydro-6-ethyl-7-methyl-3-oxoisobenzofuran-5-yl)-4-methyl-4-hexenoic acid.

reactant | methyl (E)-6-(1,3-dihydro-6-ethyl-4-isocyanato-7-methyl-3-oxoisobenzofuran-5-yl)-4-methyl-4-hexenoate | 2.0 g | C(C)C1=C(C(=C2C(OCC2=C1C)=O)N=C=O)C/C=C(/CCC(=O)OC)\C | C20H23NO5
reactant | water | 16 ml | O | H2O
reactant | lithium hydroxide monohydrate | 2.0 g | O.[OH-].[Li+]
solvent | 1,4-dioxane | 50 ml | O1CCOCC1 | C4H8O2
product | (E)-6-(4-amino-1,3-dihydro-6-ethyl-7-methyl-3-oxoisobenzofuran-5-yl)-4-methyl-4-hexenoic acid | NC1=C2C(OCC2=C(C(=C1C/C=C(/CCC(=O)O)\C)CC)C)=O | C18H23NO4
